US04521421
Following the above procedure, trans-(±)-2-amino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline was reacted with benzoyl chloride in pyridine solution. The residue obtained after working up the reaction mixture as indicated above was chromatographed over florisil using chloroform with increasing amounts (0-10%) of methanol as the eluant. Fraction ten contained the desired 2-benzoylamino compound (by TLC). The solvent was removed therefrom in vacuo. The resulting residue was dissolved in ethanol and gaseous hydrogen chloride passed into the ethanol solution. Addition of ether to the point of incipient precipitation yielded trans-(±)-2-benzoylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline dihydrochloride; molecular ion at 350.

reactant | trans-(±)-2-amino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline | NC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C14H22N4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | trans-(±)-2-benzoylamino-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)NC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | InChI=1S/C21H26N4O.2ClH/c1-2-10-25-11-6-9-16-12-18-17(13-19(16)25)14-22-21(23-18)24-20(26)15-7-4-3-5-8-15;;/h3-5,7-8,14,16,19H,2,6,9-13H2,1H3,(H,22,23,24,26);2*1H/t16-,19-;;/m0../s1
